US04525298
1.11 g (5 mM) of 5-(2,2-dimethylpropyl)-5-hexen-2-ynyl propionate in 50 ml ethanol were hydrogenated in the presence of 0.4 g of 10% palladium on charcoal. After adsorption of the theoretical amount of hydrogen, the mixture was filtered over diatomaceous earth, concentrated and bulb distilled (13.3 Pa) to give 0.85 g of 5,7,7-trimethyloctyl propionate (yield 80%).

reactant | 5-(2,2-dimethylpropyl)-5-hexen-2-ynyl propionate | 5 mM, 1.11 g | C(CC)(=O)OCC#CCC(=C)CC(C)(C)C | C14H22O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.4 g | [Pd] | Pd
product | 5,7,7-trimethyloctyl propionate | 0.85 g, yield 80% | C(CC)(=O)OCCCCC(CC(C)(C)C)C | C14H28O2
